US04172949
Ethyl 4-methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cyclohepten-2-acetate is refluxed in water (20 ml) and methanol (5 ml) containing sodium hydroxide (0.5 g) for 2 hours. The solution is cooled, acidified with 2 N hydrochloric acid and extracted with ethyl acetate. The extract is washed, dried and evaporated. The residue is recrystallized from ethyl acetate-hexane to afford 4-methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl acetic acid, mp 189°-199°.

reactant | Ethyl 4-methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cyclohepten-2-acetate | COC1=CC(=CC2=C1C(C1=C(CC2)C=CC=C1)=O)CC(=O)OCC | C20H20O4
reactant | methanol | 5 ml | CO | CH4O
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 4-methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl acetic acid | COC1=CC(=CC2=C1C(C1=C(CC2)C=CC=C1)=O)CC(=O)O | C18H16O4
